US04168385
Methyl α-(p-chlorophenoxy)-α-[p-(p-tert-butylphenoxy)phenyl]acetate
To a solution of 3.21 g of p-chlorophenol, 1.19 g of sodium methoxide and 50 mg of potassium iodide was added 7.54 g of methyl α-bromo-α-[p-(p-tert-butylphenoxy)phenyl]acetate in 10 ml of benzene. The mixture was refluxed overnight and cooled to room temperature. The mixture was then poured into 100 ml of water and extracted with 2×75 ml of ether. The combined extracts were washed with 50 ml of 5% NaOH, 2×50 ml of water, 50 ml saturated brine and dried (MgSO4). Evaporation of the solvent yielded an amber oil. Chromatography on 100 g of silica gel (benzene) afforded 7.36 g of product as a pale yellow glass.

reactant | p-chlorophenol | 3.21 g | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | sodium methoxide | 1.19 g | C[O-].[Na+]
reactant | methyl α-bromo-α-[p-(p-tert-butylphenoxy)phenyl]acetate | 7.54 g | BrC(C(=O)OC)C1=CC=C(C=C1)OC1=CC=C(C=C1)C(C)(C)C | C19H21BrO3
reactant | water | 100 ml | O | H2O
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
catalyst | potassium iodide | 50 mg | [I-].[K+]
product | Methyl α-(p-chlorophenoxy)-α-[p-(p-tert-butylphenoxy)phenyl]acetate | 7.36 g | ClC1=CC=C(OC(C(=O)OC)C2=CC=C(C=C2)OC2=CC=C(C=C2)C(C)(C)C)C=C1 | C25H25ClO4
